US07572816B2
To 2,5-dimethyl-2,5-hexanediol (10 g, 68.5 mmol) in a 500 mL flask was added reagent grade concentrated HCl (150 mL) and the solution was stirred at ambient temperature for 1 h. Water (100 mL) and CH2Cl2 (100 mL) were then added slowly and the layers were separated. The aqueous layer was washed with additional CH2Cl2 (100 mL). The combined organic layers were dried over MgSO4 and filtered thru silica gel pad. The solvent was removed to yield 10.9 g (87%) of 2,5-dichloro-2,5-dimethylhexane. The dichloride was dissolved in 150 mL of CH2Cl2 and 9.6 mL of toluene (90 mmol) was added. AlCl3 (390 mg, 2.9 mol) was added in portions over 5 min at ambient temperature. HCl is evolved and the solution turns dark red. The reaction was placed in an ice-bath and quenched with deionized water (120 mL). Hexane (150 mL) was added and the organic layer was removed. The aqueous layer was washed with additional hexane (150 mL). The combined organic layers were washed with water (200 mL) and brine (100 mL) and dried over MgSO4. The solvent was removed in vacuo to give 1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene as a colorless oil that crystallized after storage at −20° C.

reactant | 2,5-dimethyl-2,5-hexanediol | 68.5 mmol, 10 g | CC(C)(CCC(C)(O)C)O | C8H18O2
reactant | HCl | 150 mL | Cl | ClH
reactant | Water | 100 mL | O | H2O
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,5-dichloro-2,5-dimethylhexane | 10.9 g, 87% | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
